US05260450
1-(2-Fluorobenzoyl)-4-methylthiosemicarbazide
To a stirred room temperature suspension of 4-methylthiosemicarbazide (7.9 g, 7.5×10-2 mole) and CHCl3 (190 ml), 2-fluorobenzoyl chloride (9.4 ml, 7.9×10-2 mole) was added dropwise. After stirring overnight at room temperature, the precipitate was collected by filtration and the product was washed with two portions of Et2O. Drying by suction gave a colorless powder which was used without further purification in the subsequent cyclization step.

reactant | 4-methylthiosemicarbazide | 7.5×10-2 mole, 7.9 g | CNC(NN)=S | C2H7N3S
reactant | 2-fluorobenzoyl chloride | 7.9×10-2 mole, 9.4 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | CHCl3 | 190 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Fluorobenzoyl)-4-methylthiosemicarbazide | FC1=C(C(=O)NNC(=S)NC)C=CC=C1 | C9H10FN3OS
